* Blind-merge ablation: same packet front end, but branch-aware selection disabled.

.include ../../shared/source_pair_models.inc
.include ../../shared/startup_cells.inc
.include ../../shared/packet_scout_frontend.inc

.param VLEVEL=100m
.param VOC_A={VLEVEL}
.param VOC_B={VLEVEL}
.param R_UNIT=1k
.param RATIO=5
.param R_A={R_UNIT}
.param R_B={RATIO * R_UNIT}
.param POL_A=1
.param POL_B=-1
.param RAMP_MVPS=10
.param C_STORE=10u
.param V_HANDOFF=1.2
.param V_HANDOFF_FALL=1.0
.param TSTOP={max(1.25 * (VLEVEL / 1m) / RAMP_MVPS, T_SCOUT_DONE + 8 * min(R_A, R_B) * C_STORE)}

VMEAS_A src_a_p n_src_a_p 0
VMEAS_B src_b_p n_src_b_p 0
XSOURCES src_a_p n_src_a_n src_b_p n_src_b_n source_pair

BMON_A n_src_a 0 V = { V(n_src_a_p,n_src_a_n) }
BMON_B n_src_b 0 V = { V(n_src_b_p,n_src_b_n) }
RANCHOR_A n_src_a_p n_src_a_n 1g
RANCHOR_B n_src_b_p n_src_b_n 1g
RREF_A n_src_a_n 0 1g
RREF_B n_src_b_n 0 1g

XFRONTEND n_src_a_p n_src_a_n n_src_b_p n_src_b_n n_start_p n_start_n n_env_a n_env_b n_sel_a n_sel_b packet_scout_frontend params: aware=0
XSTARTUP n_start_p n_start_n n_store n_handoff startup_pump

VCTRL_MON n_store n_ctrl 0
RCTRL_OSC n_ctrl 0 40meg
RCTRL_SCOUT n_ctrl 0 60meg
RCTRL_SELECT n_ctrl 0 60meg

CSTORE n_store 0 {C_STORE} ic=0
RLOAD n_store 0 100meg

.include ../../shared/measurement_hooks.inc

.tran 0.5m {TSTOP} 0 0.5m
.end
